US08198457B2
3-[(2-methyl-4-iodophenyl)amino]isonicotinic acid (R=methyl):
synthesized as intermediate 1 by reacting 4.7 mmol of 2-methyl-4-iodoaniline with 7.0 mmol 2-fluoroisonicotinic acid. LC/MS [(5.3 min; 355 (M+1)]. See detailed procedure in Example 3.

reactant | 2-methyl-4-iodoaniline | 4.7 mmol | CC1=C(N)C=CC(=C1)I | C7H8IN
reactant | 2-fluoroisonicotinic acid | 7.0 mmol | FC=1C=C(C(=O)O)C=CN1 | C6H4FNO2
product | 3-[(2-methyl-4-iodophenyl)amino]isonicotinic acid | CC1=C(C=CC(=C1)I)NC1=C(C(=O)O)C=CN=C1 | C13H11IN2O2
